US05707997
A toluene solution (2 ml) containing 0.90 g of 3-aminopyrazole and 1.90 g of methyl 2-methyl-β-oxo-1,3-dioxolane-2-valerate was refluxed with heating at 115° C. for 1 hour, allowed to cool and then concentrated under reduced pressure. Diethyl ether was added to the residue. The crystals precipitated were collected and washed with diethyl ether to provide 1.85 g of 7-hydroxy-5-[2-(2-methyl-l,3-dioxolane-2-yl)ethyl]pyrazolo[1,5-a]pyrimidine as colorless crystals.

reactant | 3-aminopyrazole | 0.90 g | NC1=NNC=C1 | C3H5N3
reactant | methyl 2-methyl-β-oxo-1,3-dioxolane-2-valerate | 1.90 g | CC1(OCCO1)CCC(CC(=O)OC)=O | C10H16O5
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 7-hydroxy-5-[2-(2-methyl-l,3-dioxolane-2-yl)ethyl]pyrazolo[1,5-a]pyrimidine | 1.85 g | OC1=CC(=NC=2N1N=CC2)CCC2(OCCO2)C | C12H15N3O3
